US20010056123A1
Step 3: Synthesis of ethyl 3-[4-cyano-(2R)-2-(1-t-butoxycarbonylpyrrolidine-2-ylmethoxy)phenyl]acrylate:
3.7 g (8.6 mmol) of 4-iodo-3-[(2R)-(1-t-butoxycarbonyl-pyrrolidine-2-ylmethoxy)]benzonitrile was dissolved in 40 ml of DMF. 4.68 ml (43 mmol) of ethyl acrylate, 6.1 ml (43 mmol) of triethylamine and 194 mg (0.85 mmol) of palladium acetate were added to the obtained solution, and they were stirred at 100° C. overnight. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the obtained crude product was treated with ethyl acetate as the extraction solvent in an ordinary manner to obtain the crude product, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | 4-iodo-3-[(2R)-(1-t-butoxycarbonyl-pyrrolidine-2-ylmethoxy)]benzonitrile | 8.6 mmol, 3.7 g | IC1=C(C=C(C#N)C=C1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C17H21IN2O3
reactant | ethyl acrylate | 43 mmol, 4.68 ml | C(C=C)(=O)OCC | C5H8O2
reactant | triethylamine | 43 mmol, 6.1 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.85 mmol, 194 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 3-[4-cyano-(2R)-2-(1-t-butoxycarbonylpyrrolidine-2-ylmethoxy)phenyl]acrylate | C(#N)C1=CC(=C(C=C1)C=CC(=O)OCC)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C22H28N2O5
